US06291455B1
Potassium carbonate (2.2 g, 16 mmol) was added to a solution of 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline (1.51 g, 4 mmol) in DMF (30 ml) and the mixture stirred for 15 minutes. 2-Bromoethyl methyl ether (667 mg, 4.8 mmol) was then added dropwise. The mixture was stirred for 1 hour at ambient temperature, then heated at 60° C. for 17 hours and finally allowed to cool. The insoluble material was removed by filtration and the filter pad washed with DMF. The filtrate was partitioned between ethyl acetate and water, the organic layer was separated, washed with brine, dried (MgSO4) and the solvent removed by evaporation. The residue was purified by column chromatography eluting with methylene chloride/methanol (95/5 followed by 93/7). The purified product was triturated with ether to give 4-(3-acetoxy-4-methylanilino)-6-methoxy-7-(2-methoxyethoxy)quinazoline (1.34 g, 84%) as a white powder.

reactant | Potassium carbonate | 16 mmol, 2.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | 4-(3-acetoxy-4-methylanilino)-7-hydroxy-6-methoxyquinazoline | 4 mmol, 1.51 g | C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)O)C=CC1C | C18H17N3O4
reactant | 2-Bromoethyl methyl ether | 4.8 mmol, 667 mg | COCCBr | C3H7BrO
solvent | DMF | 30 ml | CN(C)C=O | C3H7NO
product | 4-(3-acetoxy-4-methylanilino)-6-methoxy-7-(2-methoxyethoxy)quinazoline | 1.34 g, 84% | C(C)(=O)OC=1C=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCOC)C=CC1C | C21H23N3O5
